US06972287B1
2-{4-[3-(4-Nitrophenyl)propyl]phenylamino}benzoic acid
To a slurry of 4-[3-(4-nitrophenyl)propyl]aniline (4.08 g, 15.9 mmol) and 2-bromobenzoic acid (3.52 g, 17.5 mmol) in i-PrOH (100 mL) was added Cu(OAc)2 (87 mg, 0.478 mmol) and KOAc (3.44 g, 35.0 mmol) at room temperature. The resulting mixture was allowed to heat under reflux for 23 hours, then cooled to room temperature. After removing the solvent under reduced pressure, the residue was diluted with water (100 mL) and basified with aqueous 1.0 M-NaOH solution to pH 9.0. The aqueous layer was washed with Et2O (20 ml, twice) and acidified with aqueous 1.0 M-HCl solution to pH 3.0. The precipitate formed was filtered by suction and dried at 60° C. in vacuo, affording the title compound as a beige solid (5.75 g, 96% yield). mp 150-153° C. MS (Fab): 376 (MH+).

reactant | 4-[3-(4-nitrophenyl)propyl]aniline | 15.9 mmol, 4.08 g | [N+](=O)([O-])C1=CC=C(C=C1)CCCC1=CC=C(N)C=C1 | C15H16N2O2
reactant | 2-bromobenzoic acid | 17.5 mmol, 3.52 g | BrC1=C(C(=O)O)C=CC=C1 | C7H5BrO2
reactant | KOAc | 35.0 mmol, 3.44 g | CC(=O)[O-].[K+]
solvent | i-PrOH | 100 mL | CC(C)O | C3H8O
catalyst | Cu(OAc)2 | 0.478 mmol, 87 mg | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 2-{4-[3-(4-Nitrophenyl)propyl]phenylamino}benzoic acid | 5.75 g, 96% yield | [N+](=O)([O-])C1=CC=C(C=C1)CCCC1=CC=C(C=C1)NC1=C(C(=O)O)C=CC=C1 | C22H20N2O4
